US05252601
Dissolve 3-isoquinuclidone (1.5 g) in methanol (50 mL) and saturated with HCl. Let stand overnight then warm to reflux for 16 hours. Evaporate the solvent in vacuo to give cis-4-amino-cyclohexanecarboxylic acid, methyl ester hydrochloride as a white foam.

reactant | 3-isoquinuclidone | 1.5 g | C1CC2CCC1C(=O)N2 | C7H11NO
reactant | HCl | Cl | ClH
reactant | methanol | 50 mL | CO | CH4O
product | cis-4-amino-cyclohexanecarboxylic acid, methyl ester hydrochloride | Cl.N[C@H]1CC[C@H](CC1)C(=O)OC | InChI=1S/C8H15NO2.ClH/c1-11-8(10)6-2-4-7(9)5-3-6;/h6-7H,2-5,9H2,1H3;1H/t6-,7+;
